US06780855B2
880 mg of 11β-fluoro-3-hydroxy-7α-(5-iodopentyl)-estra-1,3,5(10)-trien-17-one and 1.83 g of (3,4,4,5,5,6,6,7,7,8,8,9,9,10,10,10-hexadecafluoro-dec-2-enyl)-methyl-amine are dissolved in 20 ml of N-methylpyrrolidone and stirred for 1 hour at a bath temperature of 80° C. After the reaction solution is cooled to room temperature, the batch is added to saturated common salt solution, extracted with diethyl ether, dried and concentrated by evaporation in a vacuum. After the crude product is chromatographed on silica gel with ethyl acetate as an eluant, 1.2 g of 11β-fluoro-7α-{5-[(3,4,4,5,5,6,6,7,7,8,8,9,9,10,10,10-hexadecafluoro-dec-2-enyl)-methyl-amino]-pentyl}-3-hydroxy-estra-1,3,5(10)-trien-17-one is obtained.

reactant | 11β-fluoro-3-hydroxy-7α-(5-iodopentyl)-estra-1,3,5(10)-trien-17-one | 880 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCI)O | C23H30FIO2
reactant | (3,4,4,5,5,6,6,7,7,8,8,9,9,10,10,10-hexadecafluoro-dec-2-enyl)-methyl-amine | 1.83 g | FC(=CCNC)C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C11H7F16N
solvent | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 11β-fluoro-7α-{5-[(3,4,4,5,5,6,6,7,7,8,8,9,9,10,10,10-hexadecafluoro-dec-2-enyl)-methyl-amino]-pentyl}-3-hydroxy-estra-1,3,5(10)-trien-17-one | 1.2 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN(C)CC=C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F)O | C34H36F17NO2
